US09056859B2
A mixture of 7-bromo-1-benzofuran-3-carboxylic acid (8.9 g, 37 mmol), CDI (9.1 g, 56 mmol) and DCM (200 mL) was stirred for 4 hours at room temperature, and then MeNHOMe (5.5 g, 56 mmol) was added. The reaction mixture was stirred for 16 hours at room temperature. The reaction mixture was extracted with EtOAc (300 mL). The organic layer was washed with brine (50 mL), dried over Na2SO4. The solvent was concentrated in vacua. The residue was purified with silica gel chromatography to give 7-bromo-N-methoxy-N-methyl-1-benzofuran-3-carboxamide. 1H-NMR (400 MHz, CDCL3) δ ppm 8.33 (s, 1H), 8.21 (d, J=8.0, 1 H), 7.51 (d, J=7.6 Hz, 1H), 7.22 (t, J=8.0 Hz, 1H), 3.72 (s, 3H), 3.39 (s, 1H).

reactant | 7-bromo-1-benzofuran-3-carboxylic acid | 37 mmol, 8.9 g | BrC1=CC=CC=2C(=COC21)C(=O)O | C9H5BrO3
reactant | CDI | 56 mmol, 9.1 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | MeNHOMe | 56 mmol, 5.5 g | CNOC | C2H7NO
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 7-bromo-N-methoxy-N-methyl-1-benzofuran-3-carboxamide | BrC1=CC=CC=2C(=COC21)C(=O)N(C)OC | C11H10BrNO3
